US09428469B2
tert-butyl 4-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate (Compound 7)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 3 (70 mg, 287 μmol) and 4-formyl-benzoic acid mono tert-butyl ester (150 mg, 727 μmol) in MeOH (3 ml) was stirred at 45° C. for overnight to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (65.1 mg, 1.72 mmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. Crystallization from EtOAc/hexanes afforded a white solid as desired product (116 mg, 93% yield). MS +m/z: 434 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 4-formyl-benzoic acid mono tert-butyl ester | 727 μmol, 150 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)C=O)=O | C12H14O3
reactant | NaBH4 | 1.72 mmol, 65.1 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | tert-butyl 4-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)benzoate | 116 mg, 93% yield | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C20H21Cl2N5O2
